US09102673B2
Step 1: 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine
To a mixture of 7-chloro-1H-pyrrolo[2,3-c]pyridine (0.75 g, 4.92 mmol) and N-iodo-succinimide (1.2 g, 5.41 mmol) was added acetonitrile (31 mL) and the solution was heated to 75 C. After 1 h, the mixture was cooled to r.t., the formed solid was filtered, washed with acetonitrile, and dried to yield the title product (1.2 g). HRMS (ESI) calc (M+H)+=278.9180. found 278.9181.

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine | 4.92 mmol, 0.75 g | ClC=1N=CC=C2C1NC=C2 | C7H5ClN2
reactant | N-iodo-succinimide | 5.41 mmol, 1.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 31 mL | C(C)#N | C2H3N
product | 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine | 1.2 g | ClC=1N=CC=C2C1NC=C2I | C7H4ClIN2
